US07355052B2
Stage 5: 2-(3-{[3-(dimethylamino)propyl]amino}-4-nitrophenyl)-N,N-diisobutyl-2-methylpropanamide
A mixture of 2-(3-chloro-4-nitrophenyl)-N,N-diisobutyl-2-methylpropanamide (78 mg, 1 eq), 3-dimethylaminopropylamine (45 mg, 2 eq) and potassium carbonate (62 mg, 2 eq) in DMF (2 ml) is heated under reflux for 3 hours then cooled down to ambient temperature. The residue is taken up in ethyl acetate (20 ml) and water (8 ml). After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 8:2) produces the expected compound in the form of a yellow oil (44 mg; 48% yield).

reactant | 2-(3-chloro-4-nitrophenyl)-N,N-diisobutyl-2-methylpropanamide | 78 mg, 1 eq | ClC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)N(CC(C)C)CC(C)C)(C)C | C18H27ClN2O3
reactant | 3-dimethylaminopropylamine | 45 mg, 2 eq | CN(CCCN)C | C5H14N2
reactant | potassium carbonate | 62 mg, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 8 ml | O | H2O
product | 2-(3-{[3-(dimethylamino)propyl]amino}-4-nitrophenyl)-N,N-diisobutyl-2-methylpropanamide | 48% yield | CN(CCCNC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)N(CC(C)C)CC(C)C)(C)C)C | C23H40N4O3
